US04496567
Cysteamine hydrochloride (2.12 g) was added to a solution of sodium ethoxide (from 0.87 g sodium) in ethanol (50 ml) stirred under nitrogen in an ice-bath. 2-Methoxybenzyl chloride (2.93 g) was added dropwise and the mixture was stirred in an ice-bath for 0.5 hr. and allowed to stand at room temperature overnight. The mixture was evaporated to dryness. Water was added to the residue and the mixture was extracted at pH 3 with chloroform (discarded), adjusted to pH 13 and extracted a second time with chloroform. This second extract was purified by elution from silica gel with chloroform/methanolic ammonia (50:1) to give 2-(2-methoxybenzylthio)ethylamine (1.35 g) as an oil which was treated with hydrogen chloride in ethanol to give the hydrochloride m.p. 128°-30° (ethanol/ether).

reactant | Cysteamine hydrochloride | 2.12 g | Cl.NCCS
reactant | sodium ethoxide | 0.87 g | [O-]CC.[Na+]
reactant | 2-Methoxybenzyl chloride | 2.93 g | COC1=C(CCl)C=CC=C1 | C8H9ClO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(2-methoxybenzylthio)ethylamine | 1.35 g | COC1=C(CSCCN)C=CC=C1 | C10H15NOS
